US07205325B2
To a suspension of 8.00 g (35.1 mmol) 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylic acid in 40 ml tetrahydrofurane and 0.4 ml N,N-dimethyl formamide, 3.86 ml (45.0 mmol) oxalyl chloride was added dropwise at 0° C. within 10 min. Stirring was continued at 0–5° C. for 30 min. and 2 h at room temperature thereafter. The resulting solution was cooled to 0–5° C. again and then added within 15 min. to 34 ml of an 25% aqueous solution of ammonia. After stirring for 30 min. the precipitated amide was collected, washed with water and dried at 40° C. in vacuo. 7.20 g (90%) 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylamide were obtained.

reactant | 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylic acid | 35.1 mmol, 8.00 g | FC1(OC2=C(O1)C=CC(=C2)C=CC(=O)O)F | C10H6F2O4
reactant | oxalyl chloride | 45.0 mmol, 3.86 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethyl formamide | 0.4 ml | CN(C=O)C | C3H7NO
product | 3-(2,2-Difluoro-benzo[1,3]dioxol-5-yl)-acrylamide | 7.20 g, 90% | FC1(OC2=C(O1)C=CC(=C2)C=CC(=O)N)F | C10H7F2NO3
